US07713994B2
Dimethylamine (2.0 M solution in tetrahydrofuran, 2 mL) is added to 1-(4-nitrophenyl)piperidine-4-carboxylic acid chloride hydrochloride (0.15 g, 0.5 mmol). When the combined compounds fully reacted, the reaction mixture is concentrated under reduced pressure, then taken up in methanol. Water is added and the resulting solid is collected to give 1-(4-nitro-phenyl)-piperidine-4-carboxylic acid dimethylamide, which is used without further purification in the subsequent step.

reactant | Dimethylamine | 2.0 M, 2 mL | CNC | C2H7N
reactant | 1-(4-nitrophenyl)piperidine-4-carboxylic acid chloride hydrochloride | 0.5 mmol, 0.15 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl
product | 1-(4-nitro-phenyl)-piperidine-4-carboxylic acid dimethylamide | CN(C(=O)C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C14H19N3O3
